US04867915
24.64 ml (12.48 g, 0.0936 mol) of a 3.8N solution of ethylmagnesium bromide in ether was added dropwise, under argon to a cold solution of 13.2 g (0.089 mol) of 3-phenylthio-1-propyne (G. Pourcelot et al, vide supra) in 70 ml of anhydrous tetrahydrofuran. The temperature was maintained at 0°-5° C. Thereafter, the reaction mixture was stirred for 1 hour further at room temperature. Then, 440 mg of cuprous cyanide were added and the solution stirred for 20 minutes more. Then a solution of 7 g (0.0445 mol) of 1-bromo-2,5-hexadiyne in 20 ml of anhydrous tetrahydrofuran was added dropwise, maintaining the temperature between 0°-5° C. After the addition, the reaction mixture was stirred at room temperature for 3 additional hours, and then quenched with 150 ml of 1N sulfuric acid and ice. After extraction with ether (3×150 ml) the combined organic extracts were concentrated in vacuo to a small volume, and washed several times with EDTA and then with water,dried over sodium sulfate and evaporated. The crude material was purified by column chromatography on 150 g of silica gel, using hexane as eluant, to produce 9-phenylthio-1,4,7-nonatriyne, as an oil. The product was stored in dry ice.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3-phenylthio-1-propyne | 0.089 mol, 13.2 g | C1(=CC=CC=C1)SCC#C | C9H8S
reactant | 1-bromo-2,5-hexadiyne | 0.0445 mol, 7 g | BrCC#CCC#C | C6H5Br
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 9-phenylthio-1,4,7-nonatriyne | C1(=CC=CC=C1)SCC#CCC#CCC#C | C15H12S
